US05962458
A mixture of 7-((2-chloro-6-methoxy-4-pyridyl)methoxy)-6-methoxy-4-phenoxyquinazoline (400 mg, 0.95 mmol) and 2M hydrochloric acid (20 ml) was heated at reflux for 3 hours. The mixture was allowed to cool and adjusted to pH6-7 with aqueous ammonia solution. The resulting precipitate was collected by filtration washed with water and dried to give crude 7-((6-chloro-2-oxo-1,2-dihydropyrid-4-yl)methoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (190 mg, 60%).

reactant | 7-((2-chloro-6-methoxy-4-pyridyl)methoxy)-6-methoxy-4-phenoxyquinazoline | 0.95 mmol, 400 mg | ClC1=NC(=CC(=C1)COC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC)OC | C22H18ClN3O4
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 2M, 20 ml | Cl | ClH
product | 7-((6-chloro-2-oxo-1,2-dihydropyrid-4-yl)methoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 190 mg, 60% | ClC1=CC(=CC(N1)=O)COC1=C(C=C2C(NC=NC2=C1)=O)OC | C15H12ClN3O4
